US05877120
Preparation of methyl 2-(4,6-dimethoxypyrimidin-2-ylcarbonyl)-4-(2-furyl)nicotinate (Compound No. 38)
2.1 g of 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)-7-hydroxyfuro[3,4-b]pyridin-5(7H)one was weighed out, and 50 ml of N,N-dimethylformamide and 0.82 g of potassium carbonate were added thereto. The mixture was stirred at room temperature. 0.8 g of methyl iodide was added thereto dropwise, and the mixture was stirred at room temperature overnight, then poured into water and extracted 200 ml of ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (developing solvent: ethyl acetate/hexane=1/3) to obtain 1.1 g (yield 50.7%) of the desired compound as brown crystals. m.p.: 135°-140° C.

reactant | 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)-7-hydroxyfuro[3,4-b]pyridin-5(7H)one | 2.1 g | COC1=NC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C=2OC=CC2)=O)O | C17H13N3O6
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.8 g | CI | CH3I
solvent | water | O | H2O
product | methyl 2-(4,6-dimethoxypyrimidin-2-ylcarbonyl)-4-(2-furyl)nicotinate | 1.1 g, yield 50.7% | COC1=NC(=NC(=C1)OC)C(=O)C1=C(C(=O)OC)C(=CC=N1)C=1OC=CC1 | C18H15N3O6
